US08629160B2
2-Chloro-1-phenylethanone (26.9 mg, 0.17 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-(6-methoxypyridin-3-yl)acetate (C77) (67.1 mg, 0.17 mmol) in EtOAc (3 mL), and the resulting reaction mixture was stirred at room temperature overnight. The solvent was evaporated, and the crude product was purified by flash chromatography (DCM/MeOH=97/3 to 9/1) and then by preparative HPLC (Eluent: CH3CN/H2O) to obtain (3R)-3-(2-(3-fluorophenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (19.5 mg, 20.7% yield).

reactant | 2-Chloro-1-phenylethanone | 0.17 mmol, 26.9 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-(6-methoxypyridin-3-yl)acetate | 0.17 mmol, 67.1 mg | FC=1C=C(C=CC1)NC(C(=O)O[C@H]1CN2CCC1CC2)C=2C=NC(=CC2)OC | C21H24FN3O3
reactant | CH3CN H2O | CC#N.O
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-fluorophenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 19.5 mg, 20.7% yield | [Cl-].FC=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C=2C=NC(=CC2)OC | InChI=1S/C29H31FN3O4.ClH/c1-36-27-11-10-22(17-31-27)28(32-24-9-5-8-23(30)16-24)29(35)37-26-19-33(14-12-21(26)13-15-33)18-25(34)20-6-3-2-4-7-20;/h2-11,16-17,21,26,28,32H,12-15,18-19H2,1H3;1H/q+1;/p-1/t21?,26-,28?,33?;/m0./s1
